US07888510B2
A solution of 3-amino-9-fluorenone (1.95 g, 10 mmols), triethylamine (2.07 ml, 15 mmols), in 25 ml of dried dichloromethane, is cooled to 10° C. and a solution of chloroacetyl chloride (1.18 g, 10.5 mmoles) in 10 ml of dried dichloromethane is then added drop by drop. The resulting mixture is kept stirring for 1 hour at room temperature overnight. The mixture is washed with 2×30 ml of water, dried over sodium sulfate and evaporated. 2.63 g 2-Chloro-N-(9-oxo-9H-fluoren-3-yl)-acetamide (97%) are obtained.

reactant | 3-amino-9-fluorenone | 10 mmols, 1.95 g | NC=1C=CC=2C(C3=CC=CC=C3C2C1)=O | C13H9NO
reactant | triethylamine | 15 mmols, 2.07 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 10.5 mmoles, 1.18 g | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Chloro-N-(9-oxo-9H-fluoren-3-yl)-acetamide | 2.63 g, 97% | ClCC(=O)NC=1C=CC=2C(C3=CC=CC=C3C2C1)=O | C15H10ClNO2
